US07582769B2
Methylamine (2M in THF, 40 mmol) was added to a suspension of 5-acetylamino-1,3,4-thiadiazole-2-sulfonyl chloride (10 mmol) (prepared as described in Bioorg. Med. Chem. 5, 515, 1997) in THF (10 mL) at −20° C. The mixture was stirred at room temperature over night and evaporated to dryness. The crude methylsulfonamide was suspended in EtOH (15 mL) and added 4N HCl in dioxane (15 mL) and heated for 4 h at 80° C. and then cooled to room temperature and evaporated to dryness to give crude 5-amino-1,3,4-thiadiazole-2-sulfonic acid methylamide.

reactant | Methylamine | 40 mmol, 2M | CN | CH5N
reactant | 5-acetylamino-1,3,4-thiadiazole-2-sulfonyl chloride | 10 mmol | C(C)(=O)NC1=NN=C(S1)S(=O)(=O)Cl | C4H4ClN3O3S2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-amino-1,3,4-thiadiazole-2-sulfonic acid methylamide | CNS(=O)(=O)C=1SC(=NN1)N | C3H6N4O2S2
